US09169271B2
Ethyl 5-(2,2-difluoroethoxy)-3-fluoro-pyridine-2-carboxylate
Ethyl 3,5-difluoropyridine-2-carboxylate (0.98 g, 5.24 mmol) is dissolved in acetonitrile (20 mL). Difluoroethanol (430 μL, 6.81 mmol) is added followed by potassium carbonate (1.83 g, 13.09 mmol). The solution is stirred at room temperature for 2 days then filtered and the filtrate is concentrated. The crude material is purified via silica gel chromatography eluting with a 0-25-50% ethyl acetate/hexanes gradient to give the title compound (242 mg, 18%). ES/MS (m/e): 250.0 (M+1).

reactant | Ethyl 3,5-difluoropyridine-2-carboxylate | 5.24 mmol, 0.98 g | FC=1C(=NC=C(C1)F)C(=O)OCC | C8H7F2NO2
reactant | Difluoroethanol | 6.81 mmol, 430 μL | FC(C)(O)F | C2H4F2O
reactant | potassium carbonate | 13.09 mmol, 1.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 5-(2,2-difluoroethoxy)-3-fluoro-pyridine-2-carboxylate | 242 mg, 18% | FC(COC=1C=C(C(=NC1)C(=O)OCC)F)F | C10H10F3NO3
